US08648066B2
To a solution of dimethylamine (2M solution in tetrahydrofuran, 4.0 mL, 8.0 mmol) was added 2-(1-chloroethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol (synthesized according to the method of reagent preparation 18 using 2-chloropropionitrile in step 1) (50 mg, 0.21 mmol) and the reaction mixture was stirred in a sealed tube for 16 hours at 80° C. After cooling to room temperature the reaction mixture was concentrated and the residue was partitioned between brine (50 mL) and ethyl acetate (50 mL). The organic layer was separated and washed with brine (20 mL), dried over sodium sulfate, filtered and concentrated to give 2-[1-(dimethylamino)ethyl]-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol (50 mg, 96%). MS (EI) for C14H23N3O: 250 (MH+).

reactant | dimethylamine | 8.0 mmol, 2M, 4.0 mL | CNC | C2H7N
reactant | 2-(1-chloroethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol | ClC(C)C1=NC=2CCC(CC2C(=N1)O)(C)C | C12H17ClN2O
reactant | 2-chloropropionitrile | ClC(C#N)C | C3H4ClN
product | 2-[1-(dimethylamino)ethyl]-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol | 50 mg, 96% | CN(C(C)C1=NC=2CCC(CC2C(=N1)O)(C)C)C | C14H23N3O
